* C:\Users\Emanuel\Desktop\DCE-Amplificador-Clase-D\Calculo de realimentador\Simulacion\GananciaDeLazo.asc
B1 OUT 0 V=delay(V(Error)*20, 600E-9)
L1 OUT N004 33µ
C1 N004 0 330n
R1 N004 0 8
XU1 N001 N002 15V -15V N002 AD817
V2 15V 0 15
V3 0 -15V 15
R2 N001 0 1k
R3 IN N001 19k
XU2 N005 N003 15V -15V Error AD817
R4 N002 N003 {R2}
R5 Error N003 {R1}
C2 Error N003 {C}
R6 N005 0 {R1}
C3 N005 0 {C}
R7 N005 0 {R2}
V1 IN 0 AC 1
.include "./ad817.lib"
.ac dec 1000 1 10Meg
.param C=1n R1=100k R2=1k
.backanno
.end
